US08497288B2
To a mixture of trimethyl sulfoxonium iodide (70 mg, 0.350 mmol) and NaH (20 mg, 0.477 mmol), was added dry DMSO (0.3 mL) drop wise at 0° C. and stirred for 30 min. (S)-2-[4-(2,2,2-Trifluoro-ethoxy)-phenyl]-tetrahydro-pyrrolo[1,2-c]imidazole-3,6-dione (100 mg, 0.318 mmol) dissolved in DMSO (0.6 mL) was added to this mixture and stirred at room temperature for 2 h. The reaction mixture was poured into brine and extracted with ethyl acetate. The organic layer was dried over Na2SO4 and concentrated. The residue was purified through column chromatography over silica (elution with 30% ethyl acetate in hexane) to obtain 20 mg of isomer (2R,7a′S)-2′-[4-(2,2,2-trifluoroethoxy)phenyl]tetrahydro-3′H-spiro[oxirane-2,6′-pyrrolo[1,2-c]imidazol]-3′-one (off white solid) LC-MS: 329.0 [M+1]+ and 5 mg of isomer (2S,7a′S)-2′-[4-(2,2,2-trifluoroethoxy)phenyl]tetrahydro-3′H-spiro[oxirane-2,6′-pyrrolo[1,2-c]imidazol]-3′-one (off white solid) LC-MS: 329.0 [M+1]+.

reactant | trimethyl sulfoxonium iodide | 0.350 mmol, 70 mg | [I-].C[S+](=O)(C)C
reactant | NaH | 0.477 mmol, 20 mg | [H-].[Na+]
reactant | (S)-2-[4-(2,2,2-Trifluoro-ethoxy)-phenyl]-tetrahydro-pyrrolo[1,2-c]imidazole-3,6-dione | 0.318 mmol, 100 mg | FC(COC1=CC=C(C=C1)N1C(N2[C@H](C1)CC(C2)=O)=O)(F)F | C14H13F3N2O3
solvent | DMSO | 0.6 mL | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
solvent | DMSO | 0.3 mL | CS(=O)C | C2H6OS
product | (2R,7a′S)-2′-[4-(2,2,2-trifluoroethoxy)phenyl]tetrahydro-3′H-spiro[oxirane-2,6′-pyrrolo[1,2-c]imidazol]-3′-one | 20 mg | FC(COC1=CC=C(C=C1)N1C(N2[C@H](C1)C[C@]1(C2)OC1)=O)(F)F | C15H15F3N2O3
